US07790755B2
tert-Butyl [2-(methylamino)-3-pyridyl]methyl carbonate
To a solution (50 mL) of [2-(methylamino)-3-pyridyl]methanol (2 g: synthesized according to the method described in WO 01/32652) in tetrahydrofuran were added di-tert-butyl dicarbonate (3.48 g) and 4-dimethylaminopyridine (0.18 g) and the mixture was refluxed for 1 hr. Water (30 mL) was added to the reaction mixture and extracted with ethyl acetate (50 mL). The obtained organic layer was washed with saturated brine (50 mL), and dried over anhydrous sodium sulfate. The residue obtained by concentration under reduced pressure was purified by flash silica gel column chromatography (eluted with ethyl acetate:hexane=1:5) to give the title compound (1.51 g) as a white solid.

reactant | [2-(methylamino)-3-pyridyl]methanol | 50 mL | CNC1=NC=CC=C1CO | C7H10N2O
reactant | di-tert-butyl dicarbonate | 3.48 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | 30 mL | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.18 g | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-Butyl [2-(methylamino)-3-pyridyl]methyl carbonate | 1.51 g | C(OC(C)(C)C)(OCC=1C(=NC=CC1)NC)=O | C12H18N2O3
